US04885283
In a manner analogous to that described in Example 3(A), from 0.41 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate and 0.21 g of 3-methyl-6-methoxyphthalic anhydride there was obtained 0.245 g of [(3-methoxy-6-methylphthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester in the form of a white foam.

reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate | 0.41 g | C(C)(=O)O.COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN
reactant | 3-methyl-6-methoxyphthalic anhydride | 0.21 g | CC1=C2C(C(=O)OC2=O)=C(C=C1)OC | C10H8O4
product | [(3-methoxy-6-methylphthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester | 0.245 g | COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C(C=2C(C1=O)=C(C=CC2C)OC)=O | C26H40N3O7P
